US04670448
5-[4-[3-(1-Piperidinylmethyl)phenoxy]butyl]amino-1H-1,2,4-triazole-3-carboxamide
A suspension of ethyl 5-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino-1H-1,2,4-triazole-3-carboxylate (867 mg) in 0.88 ammonia (25 ml) was stirred at room temperature for 18 h. The mixture was evaporated and the residual solid was washed with boiling methanol to leave the title compound as a white solid (255 mg) m.p. 212°-4° dec.

reactant | ethyl 5-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino-1H-1,2,4-triazole-3-carboxylate | 867 mg | N1(CCCCC1)CC=1C=C(OCCCCNC2=NC(=NN2)C(=O)OCC)C=CC1 | C21H31N5O3
reactant | ammonia | 25 ml | N | H3N
product | 5-[4-[3-(1-Piperidinylmethyl)phenoxy]butyl]amino-1H-1,2,4-triazole-3-carboxamide | 255 mg | N1(CCCCC1)CC=1C=C(OCCCCNC2=NC(=NN2)C(=O)N)C=CC1 | C19H28N6O2
